US09102623B2
A19.2) 6-(1-Chloro-1,2,2,2-tetrafluoroethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
0.33 g (14.4 mmol) of sodium were dissolved in 50 ml of methanol, 3.16 g (12.03 mmol) of 1-butoxy-4-chloro-4,5,5,5-tetrafluoropent-1-en-3-one and 1.27 g (12.03 mmol) of malonamide were added and the mixture was heated under reflux for 7 h. The mixture was concentrated, and 1N hydrochloric acid was then added. The resulting precipitate was filtered off with suction and dried. This gave 380 mg (12% of theory) of a yellowish powder.

reactant | sodium | 14.4 mmol, 0.33 g | [Na] | Na
reactant | 1-butoxy-4-chloro-4,5,5,5-tetrafluoropent-1-en-3-one | 12.03 mmol, 3.16 g | C(CCC)OC=CC(C(C(F)(F)F)(F)Cl)=O | C9H11ClF4O2
reactant | malonamide | 12.03 mmol, 1.27 g | C(CC(=O)N)(=O)N | C3H6N2O2
solvent | methanol | 50 ml | CO | CH4O
product | 6-(1-Chloro-1,2,2,2-tetrafluoroethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | ClC(C(F)(F)F)(F)C1=CC=C(C(N1)=O)C(=O)N | C8H5ClF4N2O2
